US06509328B1
{2-[3-(2-Cyano-pyridin-4-yl)-3-oxo-propionylamino]-4-cyclopropyl-phenyl}-carbamic Acid tert.-Butyl Ester
Prepared from (2-amino-4-cyclopropyl-phenyl)-carbamic acid tert.-butyl ester (Example G48) and 4-(2,2-dimethyl-6-oxo-6H-[1,3]dioxin-4-yl)-pyridine-2-carbonitrile (Example J16) according to the general procedure K. Obtained as a light brown solid (148 mg).

reactant | (2-amino-4-cyclopropyl-phenyl)-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1CC1)N)=O | C14H20N2O2
reactant | 4-(2,2-dimethyl-6-oxo-6H-[1,3]dioxin-4-yl)-pyridine-2-carbonitrile | CC1(OC(C=C(O1)C1=CC(=NC=C1)C#N)=O)C | C12H10N2O3
product | {2-[3-(2-Cyano-pyridin-4-yl)-3-oxo-propionylamino]-4-cyclopropyl-phenyl}-carbamic Acid tert.-Butyl Ester | 148 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1CC1)NC(CC(=O)C1=CC(=NC=C1)C#N)=O)=O | C23H24N4O4
